US08222269B2
N-methyl-1-[3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]-N-phenylethanesulfonamide (Compound 7-1)
Lithium bis(trimethylsilyl)amide (1063 μl, 1.063 mmol, 1 M in THF) was added to a solution of N-methyl-1-[3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]N-phenylmethanesulfonamide (250 mg, 0.531 mmol) in THF (5.3 mL) at −78° C. After stirring for 30 minutes at −78° C., the solution was warmed to room temperature and then cooled to −78° C. before adding a solution of methyl iodide (100 μl, 1.594 mmol) in THF (3.75 mL) dropwise. After 2 hours, the reaction was warmed to room temperature, acidified with aqueous ammonium chloride (saturated) and water (75 mL), then extracted with dichloromethane (3×100 mL). The combined organic extracts were washed with brine (50 mL×2), dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to afford the title compound as a yellow solid. LRMS (APCI) calculated for C27H24N4O3S [M+H]+, 485.2. found 485.1.

reactant | Lithium bis(trimethylsilyl)amide | 1.063 mmol, 1 M, 1063 μl | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-methyl-1-[3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]N-phenylmethanesulfonamide | 0.531 mmol, 250 mg | CN(S(=O)(=O)CC=1C=CC2=C(C(C=3C(=NC=C(C3)C=3C=NN(C3)C)C=C2)=O)C1)C1=CC=CC=C1 | C26H22N4O3S
reactant | methyl iodide | 1.594 mmol, 100 μl | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5.3 mL | C1CCOC1 | C4H8O
solvent | THF | 3.75 mL | C1CCOC1 | C4H8O
solvent | water | 75 mL | O | H2O
product | N-methyl-1-[3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]-N-phenylethanesulfonamide | CN(S(=O)(=O)C(C)C=1C=CC2=C(C(C=3C(=NC=C(C3)C=3C=NN(C3)C)C=C2)=O)C1)C1=CC=CC=C1 | C27H24N4O3S
